US06790865B2
To a solution of 3-chlorophenol (5.0 g) in acetone (100 ml) were added potassium hydroxide (19.5 g) and 1,1,1-trichloro-2-methyl-2-propanol hydrate (13.7 g), and the mixture was stirred for 14 hours at room temperature. After the reaction mixture was concentrated under reduced pressure, water was added to the residue, and the mixture was washed with ethyl acetate. The aqueous layer was acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was dissolved in ethanol (150 ml) a catalytic amount of sulfuric acid was added to the solution, and the mixture was heated under reflux for 22 hours. After the reaction mixture was concentrated under reduced pressure, the residue was dissolved in ethyl acetate, washed with water, a saturated aqueous sodium bicarbonate solution and brine subsequently, and dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure gave ethyl 2-(3-chlorophenoxy)-2-methylpropionate (5.8 g).

reactant | 3-chlorophenol | 5.0 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | potassium hydroxide | 19.5 g | [OH-].[K+]
reactant | 1,1,1-trichloro-2-methyl-2-propanol hydrate | 13.7 g | O.ClC(C(C)(O)C)(Cl)Cl
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | ethyl 2-(3-chlorophenoxy)-2-methylpropionate | 5.8 g | ClC=1C=C(OC(C(=O)OCC)(C)C)C=CC1 | C12H15ClO3
